US06479608B1
1-t-Butyl-3,3,5,5-tetraethyl-piperazin-2-on (264)
In analogy to Example B21, 1,1-diethyl-2-t-butylaminoethylamin, diethylketon, chloroform and NaOH are reacted to give the title compound (52%) as a yellow oil.

reactant | 1,1-diethyl-2-t-butylaminoethylamin | C(C)C(CNC(C)(C)C)(CC)N | C10H24N2
reactant | diethylketon | C(C)C(=O)CC | C5H10O
reactant | NaOH | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-t-Butyl-3,3,5,5-tetraethyl-piperazin-2-on | 52% | C(C)(C)(C)N1C(C(NC(C1)(CC)CC)(CC)CC)=O | C16H32N2O
